US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxy)-5-fluoro-N2-[2-(hydroxymethyl)benzofuran-5-yl]-2,4-pyrimidinediamine, 5-fluoro-N2-(2-methoxycarbonylbenzofuran-5-yl)-N4-(4-isopropoxyphenyl)-2,4-pyrimidinediamine was reduced with DIBALH to yield 5-fluoro-N2-[2-(hydroxymethyl)benzofuran-5-yl]-N4-(4-isopropoxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.83 (d, 1H, J=3.3 Hz), 7.81 (s, 1H), 7.50 (d, 2H, J=9.0 Hz), 7.29 (d, 1H, J=9.0 Hz), 7.22 (dd, 1H, J=2.4 and 8.7 Hz), 6.84 (d, 2H, J=8.7 Hz), 6.56 (d, 1H, J=1.2 Hz), 4.64 (s, 2H), 4.56 (2q, 1H, J=5.7 Hz), 1.31 (d, 6H, J=6.0 Hz); 19F NMR (CD3OD): −47926; LCMS: ret. time: 21.03 min.; purity: 99%; MS (m/e): 409 (MH+).

reactant | N4-(3,4-ethylenedioxy)-5-fluoro-N2-[2-(hydroxymethyl)benzofuran-5-yl]-2,4-pyrimidinediamine | C1ON2C(=NC=C(C2(N)OC1)F)NC=1C=CC2=C(C=C(O2)CO)C1 | C15H15FN4O4
reactant | 5-fluoro-N2-(2-methoxycarbonylbenzofuran-5-yl)-N4-(4-isopropoxyphenyl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC=1C=CC2=C(C=C(O2)C(=O)OC)C1)NC1=CC=C(C=C1)OC(C)C | C23H21FN4O4
reactant | DIBALH | CC(C)C[AlH]CC(C)C
product | 5-fluoro-N2-[2-(hydroxymethyl)benzofuran-5-yl]-N4-(4-isopropoxyphenyl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC=1C=CC2=C(C=C(O2)CO)C1)NC1=CC=C(C=C1)OC(C)C | C22H21FN4O3
